datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH:10]1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH+:10]1[H:20] 10=20;20,21=21",
"Nc1ncc2[nH]c[n+:21]([H:20])c2n1.O=C(C[N:10]1CCOCC1)c1ccccc1>>Nc1ncc2[nH]c[n:21]c2n1.O=C(C[N+:10]1([H:20])CCOCC1)c1ccccc1 10=20;20,21=21",
"C#CCCCC(=O)[O-:10].O=C(CBr)[O:21][H:20]>>C#CCCCC(=O)[O:10][H:20].O=C(CBr)[O-:21] 10=20;20,21=21",
"CCc1[nH]c2cc3c(cc2[n:10]1)CCCC3.O=C(CCc1ccc(Cl)cc1)[O:21][H:20]>>CCc1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3.O=C(CCc1ccc(Cl)cc1)[O-:21] 10=20;20,21=21",
"CN1CCCC2CC[N+:21]([H:20])=C21.O=C(C[NH2:10])Nc1ccc([N+](=O)[O-])cc1>>CN1CCCC2CC[N:21]=C21.O=C(C[NH2+:10][H:20])Nc1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:21](CCC#N)([H:20])CC[C@@]341.O=P([O-])([O-])c1cn2c([n:10]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO>>COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:21](CCC#N)CC[C@@]341.O=P([O-])([O-])c1cn2c([n+:10]1[H:20])[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO 10=20;20,21=21",
"CCN(CC)Cc1cc(F)ccc1[O-:10].COC1=CC2CCC1(C(=O)[O:21][H:20])CC2>>CCN(CC)Cc1cc(F)ccc1[O:10][H:20].COC1=CC2CCC1(C(=O)[O-:21])CC2 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].OCCCCC[NH2:10]>>O=C1SC2=C(C=CC=C2)[CH-:21]1.OCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)c1cccc[n+]1[O:21][H:20].COc1ccc([N-:10]C(=S)c2ccccc2)cc1>>CN(C)c1cccc[n+]1[O-:21].COc1ccc([N:10](C(=S)c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC(C)N(Cc1ccccc1[O-:10])C(C)C.Cc1cccc(N)c1-c1c(C)cccc1[NH2+:21][H:20]>>CC(C)N(Cc1ccccc1[O:10][H:20])C(C)C.Cc1cccc(N)c1-c1c(C)cccc1[NH2:21] 10=20;20,21=21",
"CCCCNc1cc[nH+]c([O-])[n:10]1.COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:21]1[H:20]>>CCCCNc1cc[nH+]c([O-])[n+:10]1[H:20].COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n:21]1 10=20;20,21=21",
"COCC[N+:21](C)(C)[H:20].O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O-:10]>>COCC[N:21](C)C.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O:10][H:20] 10=20;20,21=21",
"CCCOC(=S)[N:21](C(C)=O)[H:20].C[N+](C)(C)[O-:10]>>CCCOC(=S)[N-:21]C(C)=O.C[N+](C)(C)[O:10][H:20] 10=20;20,21=21",
"CC(=O)/C=N/[O-:10].Cc1ccccc1C(=NCCCC[N+:21](C)(C)[H:20])c1ccccc1C>>CC(=O)/C=N/[O:10][H:20].Cc1ccccc1C(=NCCCC[N:21](C)C)c1ccccc1C 10=20;20,21=21",
"CC(C)[C@@]12C[NH:10][C@@H](C(=O)[O-])[C@@H]1CC(=O)O2.NC(=O)CCC(C(=O)O)[NH:21][H:20]>>CC(C)[C@@]12C[NH+:10]([H:20])[C@@H](C(=O)[O-])[C@@H]1CC(=O)O2.NC(=O)CCC(C(=O)O)[NH-:21] 10=20;20,21=21",
"CCc1c([O-:10])nn(-c2ccccc2C(=O)[O-])c1C.CN1C=CC(=[O+:21][H:20])C=C1>>CCc1c([O:10][H:20])nn(-c2ccccc2C(=O)[O-])c1C.CN1C=CC(=[O:21])C=C1 10=20;20,21=21",
"CN(C)Cc1cc(OCc2ccccc2)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)Cc1cc(OCc2ccccc2)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(Cl)C(=O)[O-:10].O=C1C=CC(Br)=CC=C1[O:21][H:20]>>CC(C)(Cl)C(=O)[O:10][H:20].O=C1C=CC(Br)=CC=C1[O-:21] 10=20;20,21=21",
"CCc1cccn[n:10]1.c1ccc(-c2cccc(-c3cccc[n+:21]3[H:20])n2)nc1>>CCc1cccn[n+:10]1[H:20].c1ccc(-c2cccc(-c3cccc[n:21]3)n2)nc1 10=20;20,21=21",
"CCC1C[NH:10]1.O=C(c1cccc[nH+]1)[O:21][H:20]>>CCC1C[NH+:10]1[H:20].O=C(c1cccc[nH+]1)[O-:21] 10=20;20,21=21",
"COc1cc(C[NH2+:21][H:20])c(C)cc1N.C[NH+](C)Cc1cc(F)ccc1[O-:10]>>COc1cc(C[NH2:21])c(C)cc1N.C[NH+](C)Cc1cc(F)ccc1[O:10][H:20] 10=20;20,21=21",
"Cc1nc(N)c2cnn(C)c2[n:10]1.O=[N+]([O-])c1cccc2c1c(NCCCO)cc[n+:21]2[H:20]>>Cc1nc(N)c2cnn(C)c2[n+:10]1[H:20].O=[N+]([O-])c1cccc2c1c(NCCCO)cc[n:21]2 10=20;20,21=21",
"COC(=O)C1CCC[N+:21](C)([H:20])C1.Cc1ccc(CC[NH2:10])cc1>>COC(=O)C1CCC[N:21](C)C1.Cc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCc1cccc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)c1.Nc1ccc(S(=O)(=O)Nc2ccc(N)[n:10]c2)cc1>>CCc1cccc(/N=N/c2ccc([N:21](C)C)cc2)c1.Nc1ccc(S(=O)(=O)Nc2ccc(N)[n+:10]([H:20])c2)cc1 10=20;20,21=21",
"Nc1ccc2nc[n:10]cc2c1.O=S(CCc1ccccc1)[O:21][H:20]>>Nc1ccc2nc[n+:10]([H:20])cc2c1.O=S(CCc1ccccc1)[O-:21] 10=20;20,21=21",
"CN1CC[C@]23c4c5ccc([O:21][H:20])c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.S=C(c1ccccc1)[N-:10]c1ccc(Cl)c(Cl)c1>>CN1CC[C@]23c4c5ccc([O-:21])c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5.S=C(c1ccccc1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"CC1CC[N:10](O)C1(C)C.NC(=O)c1cc(-c2ccccc2)nnc1[N:21](CCN1CCOCC1)[H:20]>>CC1CC[N+:10](O)([H:20])C1(C)C.NC(=O)c1cc(-c2ccccc2)nnc1[N-:21]CCN1CCOCC1 10=20;20,21=21",
"CCC1(C)CC(=O)[N-:10]C1=O.[S-]c1nc([S:21][H:20])c2[nH]cnc2n1>>CCC1(C)CC(=O)[N:10]([H:20])C1=O.[S-]c1nc([S-:21])c2[nH]cnc2n1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[NH:21][H:20])cc1C.[O-]c1cc[n:10]nc1>>Cc1ccc(S(=O)(=O)[NH-:21])cc1C.[O-]c1cc[n+:10]([H:20])nc1 10=20;20,21=21",
"CC(CC1CCCCC1)[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(CC1CCCCC1)[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCNCC#CC[NH:10]CC.O=C(O)c1cccc([OH+:21][H:20])c1>>CCNCC#CC[NH+:10](CC)[H:20].O=C(O)c1cccc([OH:21])c1 10=20;20,21=21",
"CCc1[nH]c2ccccc2[n:10]1.COC(=O)c1ccc([N:21](C=S)[H:20])cc1>>CCc1[nH]c2ccccc2[n+:10]1[H:20].COC(=O)c1ccc([N-:21]C=S)cc1 10=20;20,21=21",
